US07018997B2
Step 2: Imidazo[2,1-b]-benzthiazole-2-methanol:
To a stirred slurry of LiAlH4 (2.0 g, excess) in dry THF, ethyl imidazo[2,1-b]-benzthiazole-2-carboxylate (4.9 g, 20 mmol) was slowly added in THF (100 ml) at 0° C. After the addition, the reaction mixture was stirred at room temperature for 1 h and quenched with saturated NH4Cl/NH4OH. The separated solid was diluted with Chloroform/MeOH (3:1) and filtered through a pad of celite. The organic layer was washed once with saturated NaCl and dried over anhydrous MgSO4. It was filtered and concentrated. The brown solid obtained was taken to next step with out purification. Yield: 3.8 g, 93%; M+H 205; mp 131° C.

reactant | LiAlH4 | 2.0 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl imidazo[2,1-b]-benzthiazole-2-carboxylate | 20 mmol, 4.9 g | N=1C(=CN2C1SC1=C2C=CC=C1)C(=O)OCC | C12H10N2O2S
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | Imidazo[2,1-b]-benzthiazole-2-methanol | N=1C(=CN2C1SC1=C2C=CC=C1)CO | C10H8N2OS
